US07026339B2
To a solution of N-methoxy-N-methyl-2-{[(4-methylphenyl)sulfonyl]methyl}benzamide (0.645 mmol) in 5 mL THF at −78° C. is added 1.0 M solution of LiAlH4 in THF (0.709 mmol) slowly with stirring. The reaction is stirred at −78° C. for 1 hr and gradually warmed up to RT. The reaction mixture is diluted with EtOAc and washed with H2O. The solution is dried over Na2SO4 and the solvent is evaporated to give a quantitative yield of 2-{[(4-methylphenyl)sulfonyl]methyl}benzaldehyde.

reactant | N-methoxy-N-methyl-2-{[(4-methylphenyl)sulfonyl]methyl}benzamide | 0.645 mmol | CON(C(C1=C(C=CC=C1)CS(=O)(=O)C1=CC=C(C=C1)C)=O)C | C17H19NO4S
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 0.709 mmol | C1CCOC1 | C4H8O
product | 2-{[(4-methylphenyl)sulfonyl]methyl}benzaldehyde | quantitative yield | CC1=CC=C(C=C1)S(=O)(=O)CC1=C(C=O)C=CC=C1 | C15H14O3S
